US07795283B2
3′-{[5-({[-4-(4-Acetylpiperazin-1-yl)phenyl]amino}carbonyl)-1,3,4-oxadiazol-2-yl]amino}biphenyl-4-carboxylic acid
Following the procedure of Example 357 but using methyl 3′-{[5-({[4-(4-acetylpiperazin-1-yl)phenyl]amino}carbonyl)-1,3,4-oxadiazol-2-yl]amino}biphenyl-4-carboxylate as starting material in place of methyl (trans-4-{4-[({5-[(4-ethylphenyl)amino]-1,3,4-oxadiazol-2-yl}carbonyl)amino]phenyl}cyclohexyl)acetate the title compound was obtained as a solid; 1H NMR δ 2.09 (s, 3H), 3.01-3.20 (m, 4H), 3.52-3.67 (m, 4H), 6.98 (d, 2H), 7.41 (d, 1H), 7.53 (t, 1H), 7.61-7.71 (m, 3H), 7.78 (d, 2H), 8.00 (s, 1H), 8.07 (d, 2H), 10.87 (s, 1H), 11.18 (s, 1H), 13.37 (s, 1H); MS m/e MH+ 527.

reactant | methyl 3′-{[5-({[4-(4-acetylpiperazin-1-yl)phenyl]amino}carbonyl)-1,3,4-oxadiazol-2-yl]amino}biphenyl-4-carboxylate | C(C)(=O)N1CCN(CC1)C1=CC=C(C=C1)NC(=O)C1=NN=C(O1)NC=1C=C(C=CC1)C1=CC=C(C=C1)C(=O)OC | C29H28N6O5
reactant | methyl (trans-4-{4-[({5-[(4-ethylphenyl)amino]-1,3,4-oxadiazol-2-yl}carbonyl)amino]phenyl}cyclohexyl)acetate | C(C)C1=CC=C(C=C1)NC1=NN=C(O1)C(=O)NC1=CC=C(C=C1)[C@@H]1CC[C@H](CC1)CC(=O)OC | C26H30N4O4
product | 3′-{[5-({[-4-(4-Acetylpiperazin-1-yl)phenyl]amino}carbonyl)-1,3,4-oxadiazol-2-yl]amino}biphenyl-4-carboxylic acid | C(C)(=O)N1CCN(CC1)C1=CC=C(C=C1)NC(=O)C1=NN=C(O1)NC=1C=C(C=CC1)C1=CC=C(C=C1)C(=O)O | C28H26N6O5
